datasets/RMG-dataset.csv
rxn,Ea
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13][H:14]>>[H:9][O:13][H:14].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7],19.2464
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12].[H:20]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4][c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12].[H:14][H:20],66.5158
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]([S:13][H:15])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:14])([H:5])([H:6])[H:7].[S:12][S:13][H:15],24.6856
[N:0]([H:1])[H:2].[N:3]=[N:4][H:5]>>[N:0]([H:1])([H:2])[H:5].[N:3]#[N:4],-4.8116
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:21])[H:5].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])[H:20],20.0832
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:11])([H:9])[H:10],126.231
[C:0]([C:1]([C:2]([C:3]1[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]1([H:9])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8],141.419
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17],4.8116
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([C:8](=[C:9]([H:16])[H:17])[H:15])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[S:3])[H:13])[H:4].[C:5](=[C:6]([C:7]([C:8](=[C:9]([H:16])[H:17])[H:15])[H:14])[H:12])([H:10])[H:11],62.3416
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[S:7]=[C:8]([C:9]([S:10][H:14])([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:12])[H:4].[S:7]=[C:8]([C:9]([S:10][H:14])[H:13])[H:11],13.8072
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13](=[S:14])[H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13](=[S:14])[H:15],31.38
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[H:15]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[H:15])([H:7])[H:8],16.5268
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([O:13][H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[O:13][H:17])[H:5].[C:12]([H:14])([H:15])[H:16],171.323
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[H:11])[H:10]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:8]([C:7]#[C:6][H:10])([C:9]([H:12])([H:13])[H:14])[H:11],166.607
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24][C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:24](=[C:23]([H:26])[H:27])[C:25]([H:28])([H:29])[H:30])[H:13])([H:11])[H:12],4.05848
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([S:11][H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([S:11][H:16])[H:15],130.457
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][O:10][H:11],0.0
[I:3].[O:0]([H:1])[H:2]>>[H:1][I:3].[O:0][H:2],181.2
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],3.7656
[O:0]([O:1][C:2]([C:3]([C:4]([C:5]1([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:0][H:8].[O:1][C:2]([C:3]([C:4]([C:5]1([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:13])[H:14])([H:11])[H:12])([H:9])[H:10],191.2088
